US03950425
7. 2-cyanomethylidene-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine
1 g of 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine is mixed with 1 ml of benzene, 15 ml of acetonitril and 0.5 g of molecular sieve (4 A). 50 mg of sodium-ethoxide are added and the mixture is heated for 3 hours (90°-100°C). After cooling the mixture the molecular sieve is filtered off and the filtrate evaporated.

reactant | 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | 1 g | O=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H14O2
reactant | benzene | 1 ml | C1=CC=CC=C1 | C6H6
reactant | sodium-ethoxide | 50 mg | [O-]CC.[Na+]
reactant | acetonitril | 15 ml | C(C)#N | C2H3N
product | 2-cyanomethylidene-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | C(#N)C=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C20H15NO
